US06136825
Triethylamine (6.3 ml) was added to a cloudy solution of N-benzylidene-4-piperidylmethylamine (4.05 g) and pyridine-2-sulphonyl chloride (4.0 g) in dichloromethane (100 ml) and the resulting clear yellow solution was stirred for 14 hours. Removal of the solvent under reduced pressure gave a yellow solid which on addition of diethyl ether (100 ml) partly dissolved. The insoluble white solid (triethylamine hydrochloride) was removed by filtration. Evaporation of the filtrate afforded a flocculent yellow solid which recrystallised from ethanol to give 4-[N-(benzylidene)aminomethyl]-1-(2-pyridinesulphonyl)piperidine as a white crystalline solid (4.7 g).

reactant | Triethylamine | 6.3 ml | C(C)N(CC)CC | C6H15N
reactant | N-benzylidene-4-piperidylmethylamine | 4.05 g | C(C1=CC=CC=C1)=NCC1CCNCC1 | C13H18N2
reactant | pyridine-2-sulphonyl chloride | 4.0 g | N1=C(C=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-[N-(benzylidene)aminomethyl]-1-(2-pyridinesulphonyl)piperidine | 4.7 g | C(C1=CC=CC=C1)=NCC1CCN(CC1)S(=O)(=O)C1=NC=CC=C1 | C18H21N3O2S
